US07419984B2
A mixture of 2,3,5-trichloro-phenyl boronic acid (12 g, 53 mmol) and 4,6-dichloro-pyrimidin-2-yl-amine (10.5 g, 64 mmol) in ethylene glycol dimethyl ether (300 ml) under Argon atmosphere was stirred for 30 minutes. A mixture of palladium (II) acetate (1.8 g, 8 mmol), a solution of sodium carbonate (28.2 g, 270 mmol) in water (100 ml), and triphenylphosphine (4.2 g, 16 mmol) were added and the mixture was stirred for 18 hours. The mixture was treated with acetone (500 ml), filtered through a pad of celite under suction and concentrated under reduced pressure. The residue was treated with water (100 ml) and the mixture was stirred vigorously. The solid was filtered and dissolved in tetrahydrofuran (100 ml). Hydrogen chloride (4 M in dioxane, 20 ml) was added. After stirring for 1 hour, the solid was filtered and dried under reduced pressure. The solid was treated with ethyl acetate (50 ml) and stirred for 30 minutes. The solid was filtered and dried under reduced pressure to afford 4-chloro-6-(2,3,5-trichloro-phenyl)-pyrimidin-2-yl-amine-hydrochloride salt (3.7 g, 20% yield) as a white powder.

reactant | 2,3,5-trichloro-phenyl boronic acid | 53 mmol, 12 g | ClC1=C(C=C(C=C1Cl)Cl)B(O)O | C6H4BCl3O2
reactant | 4,6-dichloro-pyrimidin-2-yl-amine | 64 mmol, 10.5 g | ClC1=NC(=NC(=C1)Cl)N | C4H3Cl2N3
reactant | sodium carbonate | 270 mmol, 28.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 16 mmol, 4.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethylene glycol dimethyl ether | 300 ml | COCCOC | C4H10O2
solvent | water | 100 ml | O | H2O
catalyst | palladium (II) acetate | 8 mmol, 1.8 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-chloro-6-(2,3,5-trichloro-phenyl)-pyrimidin-2-yl-amine-hydrochloride salt | 3.7 g, 20% yield | Cl.ClC1=NC(=NC(=C1)C1=C(C(=CC(=C1)Cl)Cl)Cl)N | InChI=1S/C10H5Cl4N3.ClH/c11-4-1-5(9(14)6(12)2-4)7-3-8(13)17-10(15)16-7;/h1-3H,(H2,15,16,17);1H
